US06313312B1
3-Hexyl-6-methyl-6-[3-(1H-1,2,3-triazol-5-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one
To a solution of 3-hexyl-6-methyl-6-{3-[5-(trimethylsilyl)-1H-1,2,3-triazol4-yl]phenyl}-3-azabicyclo[3.1.0]hexan-2-one (Preparation 39, 1.2 g, 2.88 mmol) in ethanol (15 ml) was added potassium fluoride (183 mg, 3.17 nmnol) and a few drops of concentrated hydrochloric acid. The mixture was heated at reflux for 1.5 hours and then cooled to room temperature. The solvent was removed in vacuo and the crude residue was dissolved in dichloromethane (40 ml) and washed with 10% potassium carbonate solution. The extract was dried (MgSO4), filtered and concentrated in vacuo to give the crude product which was used directly in the next step.

reactant | 3-hexyl-6-methyl-6-{3-[5-(trimethylsilyl)-1H-1,2,3-triazol4-yl]phenyl}-3-azabicyclo[3.1.0]hexan-2-one | 2.88 mmol, 1.2 g | C(CCCCC)N1C(C2C(C2C1)(C1=CC(=CC=C1)C=1N=NNC1[Si](C)(C)C)C)=O | C23H34N4OSi
reactant | potassium fluoride | 183 mg | [F-].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | a few drops | Cl | ClH
product | 3-Hexyl-6-methyl-6-[3-(1H-1,2,3-triazol-5-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one | C(CCCCC)N1C(C2C(C2C1)(C1=CC(=CC=C1)C1=CN=NN1)C)=O | C20H26N4O
